Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hyperkalemia and ___
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is an ___ yo ___ speaking M with history of 
diabetes, hypertension, dyslipidemia, gout, and BPH, who was 
referred from primary care clinic for ___ and hyperkalemia. 
History was obtained in the presence of the wife, who helped in 
the translation.

Mr. ___ presented started experiencing right toe redness, 
tenderness, and swelling on ___ in the absence of any foot 
trauma. ___ attributed his symptoms to gout and did not initially 
seek medical attention. Due to the persistence of his symptoms, 
___ presented to ___ ED on ___. There, ___ had an US that showed 
fluid collection formation in the location of inflamed bunion, 
so ___ underwent joint aspiration for culture, and was discharged 
home on Keflex and Bactrim. Since initiation of antibiotics, his 
right foot pain slowly improved.
On his PCP ___ appointment on ___, the toe and forefoot 
were found to be slightly improved, with persistent redness but 
minimal pain in the affected area. Culture from ___ returned and 
were notable for staph infection that was sensitive to both 
antibiotics, so plan was to stop Bactrim and extend Keflex for 3 
additional days for a total of 10 days. During this visit, PCP 
ordered routine labs as well as ESR and CRP. Labs from this 
visit were notable for a rise in Creatinine to 2.3 (baseline is 
1.2) and potassium to 5.8 so patient was referred to the ED.
 
Past Medical History:
#Past Medical History:  
Chest pain 
Carpel tunnel syndrome 
Hypercholesterolemia 
Hypertension, essential 
Colonic polyps
Hemorrhoids 
Pseudoexfoliation syndrome 
Anisocoria 
Macular drusen 
Diabetes mellitus type 2 
BPH w urinary obs/LUTS 
Microalbuminuria 
BPH (benign prostatic hypertrophy) 
Subclinical hypothyroidism 
MCI (mild cognitive impairment)
Gout

#Past Surgical History:
Cataract extract - phacoemulsification
 
Social History:
___
Family History:
The patient's father died of a myocardial infarction at age ___.
The patient's mother died of unspecified heart disease at age 
___. 
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
#ERROR!
Vitals:  Tmax: 98.4 Tc: 98.3  BP: 140-160/40-50 P: 40-50s RR: 
___ O2: ___ on RA
General:  AOx3. Well appearing in no acute distress.
HEENT: Normocephalic, no trauma
Lungs:  Clear bilaterally to ausculation
CV:  Bradycardic. Normal rhythm. No MRG. 
Abdomen:   Soft, non distended, non tender.
Back: No CVA tenderness
Extremities: WWP. 2+ radial and dorsal pulse bilaterally. Right 
MCP on Big toe is swollen but no redness, warmth, or tenderness. 
No edema.

PHYSICAL EXAMINATION ON DISCHARGE:
#ERROR!
Vitals: 98 46 120/100 18 93% RA  
General:  AOx3. Well appearing in no acute distress.
HEENT: Normocephalic, no trauma
Lungs:  Clear bilaterally to ausculation
CV:  Bradycardic. Normal rhythm. No MRG. 
Abdomen:   Soft, non distended, non tender.
Back: No CVA tenderness
Extremities: WWP. 2+ radial and dorsal pulse bilaterally. Right 
MCP on Big toe is swollen but no redness, warmth, or tenderness. 
No edema.

 
Pertinent Results:
Labs:
CHEM 7
___ 06:56AM BLOOD Glucose-97 UreaN-25* Creat-1.3* Na-137 
K-4.6 Cl-107 HCO3-23 AnGap-12
___ 06:56AM BLOOD Calcium-8.8 Phos-3.3 Mg-2.3
___ 08:54PM BLOOD UricAcd-4.9
___ 05:07PM BLOOD Calcium-8.8 Phos-3.7 Mg-2.6
___ 03:44PM BLOOD K-5.7*
___ 08:54PM BLOOD Na-138 K-5.5* Cl-109*
___ 05:07PM BLOOD Glucose-135* UreaN-25* Creat-1.5* Na-139 
K-6.0* Cl-110* HCO3-19* AnGap-16
___ 03:28PM BLOOD Glucose-129* UreaN-24* Creat-1.5* Na-138 
K-5.6* Cl-110* HCO3-20* AnGap-14
___ 11:26AM BLOOD Glucose-191* UreaN-26* Creat-1.7* Na-136 
K-5.9* Cl-108 HCO3-21* AnGap-13
___ 06:05AM BLOOD Glucose-92 UreaN-28* Creat-1.6* Na-136 
K-5.5* Cl-109* HCO3-18* AnGap-15
___ 05:28PM BLOOD Glucose-138* UreaN-41* Creat-2.1* Na-136 
K-5.7* Cl-106 HCO3-20* AnGap-16
___ 05:37PM   K+-5.6*

CBC
___ 06:56AM BLOOD WBC-6.4 RBC-3.54* Hgb-10.6* Hct-32.3* 
MCV-91 MCH-29.9 MCHC-32.8 RDW-12.1 RDWSD-41.1 Plt ___
___ 06:56AM BLOOD Plt ___
___ 05:28PM   WBC-5.3 RBC-3.75* HGB-11.1* HCT-34.4* MCV-92 
MCH-29.6 MCHC-32.3# RDW-12.4 RDWSD-41.6
___ 05:28PM   NEUTS-76.3* LYMPHS-13.9* MONOS-8.1 EOS-0.7* 
BASOS-0.6 IM ___ AbsNeut-4.08 AbsLymp-0.74* AbsMono-0.43 
AbsEos-0.04 AbsBaso-0.03
___ 05:28PM   PLT COUNT-219

URINE
___ 08:30PM URINE  HOURS-RANDOM UREA N-787 CREAT-87 
SODIUM-93 POTASSIUM-38 CHLORIDE-67
___ 08:30PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 08:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 08:30PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 08:30PM URINE  HYALINE-3*
___ 08:30PM URINE  URIC ACID-FEW
___ 08:30PM URINE  MUCOUS-RARE

Imaging:
___ CXR:
No acute cardiopulmonary process.

___ PELVIS ULTRASOUND:
1. Normal kidneys. 
2. Numerous large bladder diverticula. 
3. Patient unable to void accounting for large 291 cc residual. 
4. Massively enlarged prostate. 

EKG:
___ at 20:09. Sinus bradycardia at rate in ___. PR is not 
prolonged but QRS is borderline prolonged. no peaked T waves

___: Regular sinus rhythm, at a rate of 40's, PR and QRS 
interval are borderline prolonged, no peaked T waves

 
Brief Hospital Course:
___ yo M with history of diabetes, hypertension, dyslipidemia, 
gout, and BPH, who was referred from Primary Care clinic for ___ 
and hyperkalemia.

ACTIVE ISSUES:
___: Patient was found to have elevation in Creatinine to 2.1 
from a baseline of 1.2, in context of recent Bactrim treatment. 
Pelvic ultrasound showed massively enlarged prostate, but 
patient denied any new urinary retention or changes in urinary 
frequency or quantity to explain a post-obstructive etiology of 
___ was likely drug-induced secondary to Bactrim. Bactrim 
was stopped and patient received IVF, with subsequent decrease 
in Creatinine to 1.3 on ___.

#Hyperkalemia: Ppatient had elevated potassium up to 6 without 
any symptoms or ECG changes. ___ received kayexalate and Lasix 10 
mg IV, with subsequent decrease in potassium to 4.6 on ___. We 
also held enalapril.

#Infected Bursitis: Patient had a resolving inflamed bunion due 
to infection with  pansensitive staph. We continued Keflex until 
___ for a total duration of 10 days, as directed by his PCP.

CHRONIC ISSUES
#Diabetes: Diabetes is managed with diet and exercise at home. 
We placed patient on ISS. 

#Hypertension: We continued home amlodipine 10 mg daily.

#CAD primary prevention: We continued home aspirin once per day 
instead of twice daily..

#BPH: We continued home finasteride 5 mg tab/day and terazosin 2 
mg capsule.

***TRANSITIONAL ISSUES:***
- Check Creatinine and ensure resolution ___ (baseline 
Creatinine around 1.2)
- Check potassium and ensure resolution of hyperkalemia
- We stopped enalapril due to hyperkalemia, consider restarting 
it
- Consider switching simvastatin to another type of statin, due 
to interaction between simvastatin and amlodipine leading to 
increased risk of myopathy
- Patient was found to have massively enlarges prostate on 
ultrasound in the absence of change in urinary habits, consider 
up-titrating BPH medications
- Patient should continue taking Keflex for infected bursitis 
for one more day in order to complete a 10 day course of 
antibiotics (end ___
- Patient's heart rate was ranging between ___, likely sinus 
bradycardia, asymptomatic
- We changed the frequency of aspirin 81 mg (for CAD primary 
prevention) from twice daily to once daily.
# Code Status: Full (confirmed)
# Emergency Contact/HCP: ___ ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cephalexin 500 mg PO Q8H 
2. Finasteride 5 mg PO DAILY 
3. Enalapril Maleate 20 mg PO BID 
4. Terazosin 2 mg PO QHS 
5. Iron Polysaccharides Complex ___ mg PO DAILY 
6. Aspirin 81 mg PO BID 
7. Simvastatin 40 mg PO QPM 
8. Amlodipine 10 mg PO DAILY 
9. LORazepam 0.5 mg PO QHS:PRN anxiety 
10. artificial tears(hypromellose) 0.3 % ophthalmic QHS 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Cephalexin 500 mg PO Q8H 
4. Finasteride 5 mg PO DAILY 
5. LORazepam 0.5 mg PO QHS:PRN anxiety 
6. Terazosin 2 mg PO QHS 
7. artificial tears(hypromellose) 0.3 % ophthalmic QHS 
8. Simvastatin 40 mg PO QPM 
9. Iron Polysaccharides Complex ___ mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Acute kidney injury
Hyperkalemia

SECONDARY DIAGNOSES:
Infected bursitis
BPH
Diabetes
Hypertension
Dyslipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. You came to the hospital because you were found 
to have kidney injury and elevated level of potassium in your 
blood. The kidney injury is likely a side effect of one of the 
antibiotics you were taking (Bactrim). We stopped Bactrim and 
gave you fluids and your kidney function improved. Also, we 
monitored your blood levels of potassium and gave you 
medications to help excrete the potassium off your system. Your 
potassium level was back to normal. 

We stopped the medication Enalapril because it might elevate the 
level of potassium in your blood; please discuss restarting this 
medication with your primary care physician. Make sure to follow 
up with your doctors as ___.

Best regards,
Your ___ team
 
Followup Instructions:
___